US04758586
N-(4-Carbethoxyphenyl)-5-(1-benzylindol-3-yl)-2,4-Pentadienamide
To a suspension of 5-(1-benzylindol-3-yl)-2,4-pentadienoic acid (0.9 g, 2.9 mmol) in 20 ml of methylene chloride was added dropwise with stirring at room temperature 0.26 ml (0.38 g, 3 mmol) of oxalyl chloride, followed by four drops of N,N-dimethyl-formamide (DMF). The reaction mixture was stirred for an additional 90 min. and concentrated on rotary evaporator. The residue was dissolved in 10 ml of anhydrous methylene chloride and added dropwise to a solution of ethyl p-aminobenzoate (0.44 g, 2.7 mmol) in 5 ml of methylene chloride and 1.3 ml of pyridine. The resulting mixture was stirred at room temperature for 18 hours and washed with saturated aqueous sodium bicarbonate solution and water, dried (MgSO4) and mixture. Purification by a dry column (hexane:ethyl acetate, 2:1) followed by crystallization (acetone-petroleum ether) afforded 250 mg of yellow crystals, m.p. 162-166. MS(EI)=450(M+), 286 (M+--HNC6H4CO2C2H5 ); nmr (CDCl3): δ1.35 (t, J=7 Hz, 3), δ4.28(q, J=7 Hz, 2), δ5.22(s, 2), δ5.95(d, J=15 Hz, 1).

reactant | 5-(1-benzylindol-3-yl)-2,4-pentadienoic acid | 2.9 mmol, 0.9 g | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=CC=CC(=O)O | C20H17NO2
reactant | oxalyl chloride | 3 mmol, 0.26 ml, 0.38 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethyl p-aminobenzoate | 2.7 mmol, 0.44 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethyl-formamide | four drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1.3 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-Carbethoxyphenyl)-5-(1-benzylindol-3-yl)-2,4-Pentadienamide | 250 mg | C(=O)(OCC)C1=CC=C(C=C1)NC(C=CC=CC1=CN(C2=CC=CC=C12)CC1=CC=CC=C1)=O | C29H26N2O3
